US04430339
(a) 2-(3-Cyclooctylpropyl)-oxirane-2-carboxylic acid ethyl ester
2.2 g of the title compound, in the form of a colourless oil, which is purified by chromatography on silica gel (migrating agent: 90:10 petroleum ether/ethyl acetate), are obtained by the procedure described in Example (1a) from 5.42 g of 5-cyclooctyl-2-methylenevaleric acid ethyl ester and 5.55 g of m-chloroperbenzoic acid in 50 ml of methylene chloride.

reactant | 5-cyclooctyl-2-methylenevaleric acid ethyl ester | 5.42 g | C(C)OC(C(CCCC1CCCCCCC1)=C)=O | C16H28O2
reactant | m-chloroperbenzoic acid | 5.55 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Cyclooctylpropyl)-oxirane-2-carboxylic acid ethyl ester | C(C)OC(=O)C1(OC1)CCCC1CCCCCCC1 | C16H28O3
